US06090802
(1) tert-Butyl 3-[[2,3-di(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]-1-azetidinecarboxylate
Under ice cooling, a solution of 4-nitrobenzyl [(4-nitrobenzyloxy)carbonyliminopyrazol-1-ylmethyl]carbamate (1.42 g) in tetrahydrofuran (12 ml) was added to a solution of tert-butyl 3-(aminoacetylamino)-1-azetidinecarboxylate (785 mg) in tetrahydrofuran (13 ml) and the mixture was stirred at room temperature for 3 hours. Ethyl acetate was added to the reaction mixture. The resulting mixture was washed with water, an aqueous solution of potassium hydrogensulfate and saturated saline, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was crystallized from diisopropyl ether, followed by washing, whereby 1.94 g of the title compound were obtained as a colorless crystals.

reactant | 4-nitrobenzyl [(4-nitrobenzyloxy)carbonyliminopyrazol-1-ylmethyl]carbamate | 1.42 g | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(N2N=CC=C2)NC(OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C20H16N6O8
reactant | tert-butyl 3-(aminoacetylamino)-1-azetidinecarboxylate | 785 mg | NCC(=O)NC1CN(C1)C(=O)OC(C)(C)C | C10H19N3O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-[[2,3-di(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]-1-azetidinecarboxylate | 1.94 g | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(NCC(=O)NC2CN(C2)C(=O)OC(C)(C)C)NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C27H31N7O11
